US06143769
(S)-1-(2-Piperidino-phenyl)-3-methyl-1-butylamine
1 g (3.47 mMol) of N-acetyl-N-[(S)-1-(2-piperidino-phenyl)-3-methyl-1-butyl]-amine (melting point: 128-133° C.; ee=99.4%] are refluxed in 10 ml of concentrated hydrochloric acid for 5.5 hours, then cooled and poured into a mixture of concentrated ammonia and ice. The mixture is extracted twice with ethyl acetate, the organic phase is washed with water, dried and filtered and then evaporated down in vacuo.

reactant | N-acetyl-N-[(S)-1-(2-piperidino-phenyl)-3-methyl-1-butyl]-amine | 3.47 mMol, 1 g | C(C)(=O)N[C@@H](CC(C)C)C1=C(C=CC=C1)N1CCCCC1 | C18H28N2O
reactant | ammonia | N | H3N
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | (S)-1-(2-Piperidino-phenyl)-3-methyl-1-butylamine | N1(CCCCC1)C1=C(C=CC=C1)[C@H](CC(C)C)N | C16H26N2
